* D:\Repos\SPICE_Works\4_58.asc
Q1 N001 N002 Vout 0 rNPN
VIN N002 0 0
VCC N001 0 2.5
RC Vout 0 1k
.model NPN NPN
.model PNP PNP
.lib C:\Users\KH2166\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model rNPN NPN(IS=5E-16 Bf=100 VAf=5)
.dc VIN 0 2.5 0.005
* Ans) Vout vs Vin is exponential from 0.7V. Ic is 1mA when Vin is 1.74V
.backanno
.end
