* D:\Repos\SPICE_Works\4_60.asc
Q1 Vout N002 N003 0 rNPN
VIN N002 0 0
VCC N001 0 2.5
RC N001 Vout 1k
Q2 0 0 N003 0 rPNP
.model NPN NPN
.model PNP PNP
.lib C:\Users\KH2166\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model rNPN NPN(IS=5E-16 Bf=100 VAf=5)
* Ans) When VIN = 0.25V Q1 is in edge of saturation
.model rPNP PNP(IS=8E-16 Bf=50 VAf=3.5)
.dc VIN 0 2 0.01
.backanno
.end
