* D:\Repos\SPICE_Works\4_61.asc
Q2 Vout N002 N003 0 rNPN2
VB N002 0 1.5
VCC N001 0 2.5
RC N001 Vout 1k
Q1 N001 N004 N003 0 rNPN1
RC1 N003 0 1k
VIN N004 0 0
.model NPN NPN
.model PNP PNP
.lib C:\Users\KH2166\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model rNPN2 NPN(IS=5E-16 Bf=100 VAf=5)
* Ans) When VIN = 1.4980V, the collector currents of Q1 and Q2 are equal
.dc VIN 0 2.5 0.01
.model rNPN1 NPN(IS=5E-16 Bf=100 VAf=5)
.backanno
.end
