* D:\Repos\SPICE_Works\4_59_a.asc
Q1 N001 N002 0 0 rNPN
VCC N001 0 2.5
VIN N002 0 0
.model NPN NPN
.model PNP PNP
.lib C:\Users\KH2166\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model rNPN NPN(IS=5E-16 Bf=100 VAf=5)
.dc VIN 0 1.8 0.0005
* Ans) See the answer in 4_59_b.asc
.backanno
.end
