* D:\Repos\SPICE_Works\4_59_b.asc
Q2 N001 N002 N003 0 rNPN
Q3 N003 N003 0 0 rNPN
VCC N001 0 2.5
VIN N002 0 0
.model NPN NPN
.model PNP PNP
.lib C:\Users\KH2166\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model rNPN NPN(IS=5E-16 Bf=100 VAf=5)
.model rNPN NPN(IS=5E-16 Bf=100 VAf=5)
.dc VIN 0 1.8 0.0005
* Ans) The circuit with a diode-connected transistor has lesser Ic for the same Vin \nwhen compared to the Ic of a simple CE mode because of the following reasons:\n - The diode-connected transistor acts as a resistance and the emitter of the \nCE transistor with input Vin. Thus it limits the current Ic through Q2 due to some\npotential drop in it. \n - There is also additional Vbe drop of 0.7 V seen by the input at the base of Q2.\n- It can also be stated that the intrinsic gain of the transistor Q2 is reduced due to\nemitter resistance created by Q3.
.backanno
.end
